US08580957B2
A solution of 1,1-dimethylethyl[1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinyl]carbamate (for a preparation see Intermediate 62) (5.7 g, 14.83 mmol) in dichloromethane (DCM) (40 mL) was treated at room temperature with HCl (4N in 1,4-dioxane, 20 ml, 80 mmol). An ice bath was used during the addition to keep the temperature below 30° C. Once the addition was completed, DCM (20 mL) was added and the resulting mixture was stirred at room temperature for 2 h then concentrated in vacuo to give (cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinamine di-hydrochloride as (5.12 g, 14.33 mmol, 97%) as a white solid.

reactant | 1,1-dimethylethyl[1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinyl]carbamate | CC(C)(C)N(C([O-])=O)C1CC(N(C2=CC=C(C=C12)N1C=NC(=C1)C)C(C)=O)C
reactant | HCl | 80 mmol, 4N, 20 ml | Cl | ClH
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | DCM | 20 mL | ClCCl | CH2Cl2
product | (cis)-1-acetyl-2-methyl-6-(4-methyl-1H-imidazol-1-yl)-1,2,3,4-tetrahydro-4-quinolinamine di-hydrochloride | Cl.Cl.C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)N1C=NC(=C1)C)N)C | InChI=1S/C16H20N4O.2ClH/c1-10-8-19(9-18-10)13-4-5-16-14(7-13)15(17)6-11(2)20(16)12(3)21;;/h4-5,7-9,11,15H,6,17H2,1-3H3;2*1H/t11-,15+;;/m0../s1
